US06329546B1
Synthesis of 6-chloro-3-methylcarbostyril
In a 50-ml Erlenmeyer flask made of quartz, 0.5 g of (E) ethyl 3-(2-amino-5-chlorophenyl)-2-methyl-2-propenate was dissolved in 10 ml of ethanol; and, while being stirred, the mixture was irradiated with ultraviolet rays at 256 nm for 72 hours. The reaction liquid was concentrated under a reduced pressure, and the resulting crude crystal was recrystallized from ethanol, whereby the aimed compound was obtained.

reactant | ethyl 3-(2-amino-5-chlorophenyl)-2-methyl-2-propenate | NC1=C(C=C(C=C1)Cl)C=C(C(=O)OCC)C | C12H14ClNO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-chloro-3-methylcarbostyril | ClC=1C=C2C=C(C(NC2=CC1)=O)C | C10H8ClNO
